US08106064B2
3-(3-{3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl}-5-methyl-phenyl)-acrylonitrile (137):
To a mixture of 3-[3-(5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-phenyl]-acrylonitrile (323 mg, 1 mmol), anhydrous powdered potassium carbonate (138 mg, 1 mmol), lithium iodide (134 mg, 1 mmol), and 2-phthalimido-4-chloromethylpyridine, was added anhydrous DMF (5 ml) and the mixture was stirred for overnight at room temperature. The mixture was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, EA:hexane (1:1)) to afford 152 mg (27%) of a white solid. 1H-NMR (200 MHz, DMSO-d6) δ 1.01 (3H, d, J=6.8 Hz), 1.10 (3H, d, J=6.8 Hz), 2.12 (1H, m), 2.33 (3H, s), 4.76 (2H, s), 6.57 (1H, d, J=16.6 Hz), 7.25 (1H, d, J=5.2 Hz), 7.31 (1H, s), 7.61 (1H, d, J=16.6 Hz), 7.80 (1H, s), 7.88-8.02 (6H, m), 8.41 (1H, d, J=5.2 Hz), 11.72 (1H, s).

reactant | 3-[3-(5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-phenyl]-acrylonitrile | 1 mmol, 323 mg | C(C)(C)C1=C(NC(NC1=O)=O)C(=O)C=1C=C(C=C(C1)C)C=CC#N | C18H17N3O3
reactant | potassium carbonate | 1 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | lithium iodide | 1 mmol, 134 mg | [I-].[Li+]
reactant | 2-phthalimido-4-chloromethylpyridine | C1(C=2C(C(N1C1=NC=CC(=C1)CCl)=O)=CC=CC2)=O | C14H9ClN2O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-(3-{3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl}-5-methyl-phenyl)-acrylonitrile | 152 mg, 27% | O=C1N(C(C2=CC=CC=C12)=O)C1=NC=CC(=C1)CN1C(NC(C(=C1C(=O)C=1C=C(C=C(C1)C)C=CC#N)C(C)C)=O)=O | C32H25N5O5
